US07371754B2
Step A: {2-[(tetrahydro-2H-pyran-2-yloxy)methyl]phenyl}methanol
To a suspension of 1,2-benzenedimethanol (5 g, 36.19 mmol) in toluene/2,3-dihydropyran (206 ml/11 ml) at 30° C. was added 3.62 g Dowex (50WX2-100). The reaction stirred at 30° C. for 5 hours. The mixture was filtered to remove Dowex, then concentrated in vacuo and put on vacuum pump overnight w/stirring to remove 2,3-dihydropyran. The crude reaction product was purified by normal phase chromatography (20% EtOAc/hexanes—25% -30%) to give a clear liquid (5.72 g).

reactant | 1,2-benzenedimethanol | 36.19 mmol, 5 g | C=1(C(=CC=CC1)CO)CO | C8H10O2
reactant | toluene 2,3-dihydropyran | 206 ml | C1(=CC=CC=C1)C.O1CCCC=C1
product | {2-[(tetrahydro-2H-pyran-2-yloxy)methyl]phenyl}methanol | 5.72 g | O1C(CCCC1)OCC1=C(C=CC=C1)CO | C13H18O3
